US09376429B2
Preparation of 5-chloro-2-fluoro-4-((2′-fluoro-4-(furan-3-yl)-[2,3′-bipyridin]-5-yl)oxy)-N-(thiazol-4-yl)benzenesulfonamide
10 mg of tert-butyl((5-chloro-4-((6-chloro-4-(furan-3-yl)pyridin-3-yl)oxy)-2-fluorophenyl)sulfonyl)(thiazol-4-yl)carbamate was dissolved in 1,4-dioxane/H2O=1:1 (0.38 mL), and 3.5 mg of (2-fluoropyridin-3-yl)boronic acid, 0.65 mg (3 mol %) of Pd(PPh3)4 and 5.96 mg of Na2CO3 were added thereto. After reacting with microwave reactor at 120° C. for 5 minutes, 1,4-dioxane was removed by concentrating under reduced pressure. After extracting with ethyl acetate, the extract was treated with MgSO4, and concentrated under reduced pressure. The residue was separated by PLC (developing solvent, EA:n-Hex=1:1) to obtain 6.7 mg (72% yield) of the title compound.

reactant | tert-butyl((5-chloro-4-((6-chloro-4-(furan-3-yl)pyridin-3-yl)oxy)-2-fluorophenyl)sulfonyl)(thiazol-4-yl)carbamate | 10 mg | C(C)(C)(C)OC(N(C=1N=CSC1)S(=O)(=O)C1=C(C=C(C(=C1)Cl)OC=1C=NC(=CC1C1=COC=C1)Cl)F)=O | C23H18Cl2FN3O6S2
reactant | (2-fluoropyridin-3-yl)boronic acid | 3.5 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | Na2CO3 | 5.96 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane H2O | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.65 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-chloro-2-fluoro-4-((2′-fluoro-4-(furan-3-yl)-[2,3′-bipyridin]-5-yl)oxy)-N-(thiazol-4-yl)benzenesulfonamide | 6.7 mg, 72% yield | ClC=1C(=CC(=C(C1)S(=O)(=O)NC=1N=CSC1)F)OC=1C(=CC(=NC1)C=1C(=NC=CC1)F)C1=COC=C1 | C23H13ClF2N4O4S2
